US06403804B1
Synthesis of Methyl (2S,3S)-2-Benzyl-3-Hydroxybutyrate
Subsequently, in a 50 ml flask were charged 3.3 g (30.0 mmol) of diisopropylamine and 10 ml of tetrahydrofuran, and 16.6 ml (24.9 mmol) of n-butyllithium 1.5M hexane solution was added thereto dropwise on an ice bath in a nitrogen stream. The mixture was then stirred for 1 hour at that temperature. The reaction mixture was further cooled to −40° C., and 1.40 g (11.9 mmol) of methyl (S)-3-hydroxybutyrate prepared as above was added thereto dropwise. After the mixture was stirred for 0.5 hour, 3.00 g (17.5 mmol) of benzyl bromide dissolved in 6 ml of hexamethylphosphoramide was added thereto dropwise at −10° C. or lower temperature. After the addition, the temperature was heated up to 0° C., and the mixture was stirred for 15 min. The resulting mixture was then poured into an ice water, and was extracted with ethyl acetate. The ethyl acetate layer was concentrated to give 3.90 g of a crude product. The crude product was subjected to column chromatography (hexane/ethyl acetate=4/1 by volume) to obtain 1.50 g (61%) of the title compound (anti/syn=98/2).

reactant | diisopropylamine | 30.0 mmol, 3.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 24.9 mmol, 1.5M, 16.6 ml | C(CCC)[Li]
reactant | methyl (S)-3-hydroxybutyrate | 11.9 mmol, 1.40 g | O[C@H](CC(=O)OC)C | C5H10O3
reactant | benzyl bromide | 17.5 mmol, 3.00 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | hexamethylphosphoramide | 6 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Methyl (2S,3S)-2-Benzyl-3-Hydroxybutyrate | 1.50 g, 61% | C(C1=CC=CC=C1)[C@H](C(=O)OC)[C@H](C)O | C12H16O3
